US06833378B2
[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-(1-ethyl- allyl)-amine
The title compound was prepared as a clear oil by reduction of 4-(1-Ethyl-prop-2-ynylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid with lithium aluminum hydride and aluminum chloride. 1H NMR(CDCl3) d 6.87(s,2H), 6.08(s,1H), 5.7-5.9(m,1H), 5.1-5.3(m,2H), 3.75-4.0(m,2H), 2.30(s,3H), 2.16(s,3H), 2.15(s,3H), 2.08(s,6H), 1.70(m,2H), 1.03(t,3H)ppm.

reactant | 4-(1-Ethyl-prop-2-ynylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid | C(C)C(C#C)NC1=CC(=NC(=C1C(=O)O)OC1=C(C=C(C=C1C)C)C)C | C21H24N2O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | [3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-(1-ethyl- allyl)-amine | CC=1C(=NC(=CC1NC(C=C)CC)C)OC1=C(C=C(C=C1C)C)C | C21H28N2O
